US05304563
Methyl 2-(4-methallyloxyphenyl)-2-cyclopentyl-acetate
10 g (0.043 mol) of methyl 2-(4-hydroxyphenyl)-2-cyclopentyl-acetate are dissolved in 200 ml of dimethylformamide and 4.1 g (0.043 mol) of methallyl chloride and 5.9 (0.043 mol) of potassium carbonate are added with stirring. The mixture is allowed to react overnight at 100° C. After cooling, the solvent is evaporated in vacuo, the residue is taken up in 200 ml of dichloromethane, the solution is washed twice with 100 ml of water, the organic phase is dried using sodium sulphate and the product from evaporation in vacuo is purified by column chromatography (silica gel 60, eluent: toluene/ethyl acetate=100:5).

reactant | methyl 2-(4-hydroxyphenyl)-2-cyclopentyl-acetate | 0.043 mol, 10 g | OC1=CC=C(C=C1)C(C(=O)OC)C1CCCC1 | C14H18O3
reactant | methallyl chloride | 0.043 mol, 4.1 g | C(C(C)=C)Cl | C4H7Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | Methyl 2-(4-methallyloxyphenyl)-2-cyclopentyl-acetate | C(C(C)=C)OC1=CC=C(C=C1)C(C(=O)OC)C1CCCC1 | C18H24O3
